US08106064B2
To a stirred solution of (2,6-difluoropyridin-4-yl)methyl benzoate (10.29 g, 41.325 mmol) in anhydrous methanol (80 mL) at room temperature, was added sodium methoxide (2.23 g, 41.325 mmol). After stirring for 20 min., excess ammonium chloride was added to the reaction mixture and stirring was continued for 30 min. The mixture was then evaporated in vacuo and the residue was dissolved in methanol-MC (1:9), filtered, and the filtrate was evaporated in vacuo to give a crude product. The crude product was purified by silica gel column chromatography (eluent, EA:hexane (1:2 to 2:1)) to afford 5.9 g (98%) of (2,6-difluoropyridin-4-yl)methanol as a white solid. m.p. 66-67° C. 1H NMR (200 MHz, CDCl3) δ 2.19 (1H, t, J=5.8 Hz), 4.81 (2H, d, J=5.8 Hz), 6.84 (2H, s).

reactant | (2,6-difluoropyridin-4-yl)methyl benzoate | 41.325 mmol, 10.29 g | C(C1=CC=CC=C1)(=O)OCC1=CC(=NC(=C1)F)F | C13H9F2NO2
reactant | sodium methoxide | 41.325 mmol, 2.23 g | C[O-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 80 mL | CO | CH4O
product | (2,6-difluoropyridin-4-yl)methanol | 5.9 g, 98% | FC1=NC(=CC(=C1)CO)F | C6H5F2NO
